US05108485
Preparation of Dimethyl 1,2-dimethyl-4,5-benzimidazoledicarboxylate
Sodium methoxide (1.98 g, 36.6 mmol) is added to a solution of dimethyl 2-methyl-4,5-benzimidazoledicarboxylate (7.44 g, 33.3 mmol) in methanol and tetrahydrofuran. After 5 minutes, iodomethane (2.18 mL, 35.0 mmol) is added and the mixture is stirred for 24 hours at room temperature. Additional sodium methoxide (1.80 g, 33.3 mmol) and iodomethane (2.07 mL, 33.3 mmol) are added and stirring is continued for another 15 hours. The reaction mixture is concentrated in vacuo to give a residue which is dispersed in dilute hydrochloric acid, and treated with sodium bicarbonate to pH 8 and extracted with chloroform. The combined organic extracts are dried (MgSO4) and concentrated in vacuo to give a residue which is recrystallized from ethyl acetate to afford the title product as an orange solid, mp 205°-208° C.

reactant | Sodium methoxide | 36.6 mmol, 1.98 g | C[O-].[Na+]
reactant | dimethyl 2-methyl-4,5-benzimidazoledicarboxylate | 33.3 mmol, 7.44 g | CC=1NC=2C(N1)=CC=C(C2C(=O)OC)C(=O)OC | C12H12N2O4
reactant | iodomethane | 35.0 mmol, 2.18 mL | IC | CH3I
reactant | sodium methoxide | 33.3 mmol, 1.80 g | C[O-].[Na+]
reactant | iodomethane | 33.3 mmol, 2.07 mL | IC | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | Dimethyl 1,2-dimethyl-4,5-benzimidazoledicarboxylate | CN1C(=NC=2C1=CC=C(C2C(=O)OC)C(=O)OC)C | C13H14N2O4
